US06713471B1
To a solution of cyclopropyl-4-fluorophenyl ketone (523 mg, 3.19 mmol) in THF (10 mL) at 0° C. under N2 was added 3 M methyl magnesium bromide (1.7 mL, 5.1 mmol) in Et2O. After 90 minutes at 0° C., the reaction was quenched by addition of brine (10 mL) and diluted with Et2O (100 mL). The organic solution was washed with saturated NaHCO3 (100 mL) and brine (100 mL). Column purification (hexanes:EtOAc 9:1) yielded 1-cyclopropyl-1-(4-fluorophenyl)ethanol (512 mg, 89%) as a colorless oil.

reactant | cyclopropyl-4-fluorophenyl ketone | 3.19 mmol, 523 mg | C1(CC1)C1=C(C=CC(=C1)F)C(=O)C1=C(C=C(C=C1)F)C1CC1 | C19H16F2O
reactant | methyl magnesium bromide | 5.1 mmol, 3 M, 1.7 mL | C[Mg]Br
reactant | THF | 10 mL | C1CCOC1 | C4H8O
solvent | Et2O | CCOCC | C4H10O
product | 1-cyclopropyl-1-(4-fluorophenyl)ethanol | 512 mg, 89% | C1(CC1)C(C)(O)C1=CC=C(C=C1)F | C11H13FO
